US05849743
a) N-(4-Chloro-2-nitrophenyl)glycine
26.2 g (0.137 mol) of 2,5-dichloro-1-nitrobenzene, 20.6 g (0.274 mol) of glycine and 18.9 g (0.137 mol) of potassium carbonate were heated in 200 ml of diethylene glycol at 120° C. for 1 h. After cooling, 100 ml of water were added and the solution was acidified with 1M hydrochloric acid. The precipitate was filtered off with suction. 17.1 g (54%) of the product were obtained.

reactant | 2,5-dichloro-1-nitrobenzene | 0.137 mol, 26.2 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | glycine | 0.274 mol, 20.6 g | NCC(=O)O | C2H5NO2
reactant | potassium carbonate | 0.137 mol, 18.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | diethylene glycol | 200 ml | C(COCCO)O | C4H10O3
solvent | water | 100 ml | O | H2O
product | N-(4-Chloro-2-nitrophenyl)glycine | 17.1 g, 54% | ClC1=CC(=C(C=C1)NCC(=O)O)[N+](=O)[O-] | C8H7ClN2O4
